US05559106
E. 3-[2-[(Diethoxyphosphoryl)acetyl]hydrazino]-1-hydroxy-7-trifluoromethylquinoxalin-2(1H)-one
A solution of 1-benzyloxy-3-[2-[(diethoxyphosphoryl)acetyl]hydrazino]-7-trifluoromethylquinoxalin-2(1H)-one (5.28 g, 10 mmol) in 500 ml of ethanol was hydrogenated at atmospheric pressure and room temperature for 1 h in the presence of 250 mg of 5% palladium on carbon. The catalyst was removed by filtration, and the filtrate was evaporated to dryness. The residue was triturated with ether and light petroleum to give 4.0 g (91%) of the title compound. M.p. 193°-196° C.

reactant | 1-benzyloxy-3-[2-[(diethoxyphosphoryl)acetyl]hydrazino]-7-trifluoromethylquinoxalin-2(1H)-one | 10 mmol, 5.28 g | C(C1=CC=CC=C1)ON1C(C(=NC2=CC=C(C=C12)C(F)(F)F)NNC(CP(=O)(OCC)OCC)=O)=O | C22H24F3N4O6P
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 3-[2-[(Diethoxyphosphoryl)acetyl]hydrazino]-1-hydroxy-7-trifluoromethylquinoxalin-2(1H)-one | 4.0 g, 91% | C(C)OP(=O)(OCC)CC(=O)NNC=1C(N(C2=CC(=CC=C2N1)C(F)(F)F)O)=O | C15H18F3N4O6P
